US07192967B1
N-[4-(2,5-dioxo-3,4-diphenyl-2,5-dihydropyrrol-1-yl)-butyl]-3-pyridin-3-yl-propionamide (substance 40)
Batch size: 2.1 g (13.8 mmol) 3-(3-pyridyl)-propionic acid, 1.6 ml (47.4 mmol) oxalyl chloride, 3.8 ml (27.4 mmol) TEA and 4.0 g (12.5 mmol) 4-(2,5-dioxo-3,4-diphenyl-2,5-dihydropyrrol-1-yl)-butylamine•hydrochloride.

reactant | 3-(3-pyridyl)-propionic acid | 13.8 mmol, 2.1 g | N1=CC(=CC=C1)CCC(=O)O | C8H9NO2
reactant | oxalyl chloride | 47.4 mmol, 1.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(2,5-dioxo-3,4-diphenyl-2,5-dihydropyrrol-1-yl)-butylamine•hydrochloride | 12.5 mmol, 4.0 g | O=C1N(C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCCN.Cl
product | N-[4-(2,5-dioxo-3,4-diphenyl-2,5-dihydropyrrol-1-yl)-butyl]-3-pyridin-3-yl-propionamide | O=C1N(C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O)CCCCNC(CCC=1C=NC=CC1)=O | C28H27N3O3
